US04223137
50 ml of pyridine was added to 2.5 g of 8-hydroxy-5-(α-isopropylaminobutyryl)carbostyril, and 5 ml of isobutyryl chloride was added dropwise to the mixture while cooling with ice-water and stirring followed by stirring for 2 hours. After addition of about 500 ml of diethyl ether, the precipitate formed was washed with diethyl ether and stirred in a small amount of cold water. The precipitate was separated by filtration, washed successively with a small amount of water, acetone and diethyl ether to obtain a crystalline product which was then recrystallized from acetone to obtain 2.1 g of 8-isobutyryloxy-5-(α-Isopropylaminobutyryl)carbostyril hydrochloride having a melting point of 231°-233° C. (with decomposition).

reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | 8-hydroxy-5-(α-isopropylaminobutyryl)carbostyril | 2.5 g | OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NC(C)C)=O | C16H20N2O3
reactant | isobutyryl chloride | 5 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | diethyl ether | about 500 ml | C(C)OCC | C4H10O
product | 8-isobutyryloxy-5-(α-Isopropylaminobutyryl)carbostyril hydrochloride | 2.1 g | Cl.C(C(C)C)(=O)OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NC(C)C)=O | InChI=1S/C20H26N2O4.ClH/c1-6-15(21-12(4)5)19(24)14-7-9-16(26-20(25)11(2)3)18-13(14)8-10-17(23)22-18;/h7-12,15,21H,6H2,1-5H3,(H,22,23);1H
